US04465844
Benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine
In 250 ml of water-dioxane (1:1) was suspended 10 g of 2-(2,5-dioxopyrrolidin-3-yl)glycine and under cooling at 0°-5° C. the above amino acid was dissolved by addition of 70 ml of 1 N sodium hydroxide. To this solution was added 15 ml of benzyloxycarbonyl chloride and, with adjusting pH to 7.1-7.4 with sodium hydrogen carbonate, the mixture was stirred at the same temperature as above for 2 hours. The reaction mixture was concentrated under reduced pressure to remove the organic solvent and the concentrate was washed with ethyl acetate. The aqueous layer was adjusted to pH 1 with conc. hydrochloric acid and allowed to stand in a refrigerator overnight to give crystals. Yield 15.8 g.

reactant | 2-(2,5-dioxopyrrolidin-3-yl)glycine | 10 g | O=C1NC(CC1C(N)C(=O)O)=O | C6H8N2O4
reactant | sodium hydroxide | 1 N, 70 ml | [OH-].[Na+]
reactant | benzyloxycarbonyl chloride | 15 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water dioxane | 250 ml | O.O1CCOCC1
product | Benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1C(NC(C1)=O)=O | C14H14N2O6
